US08008305B2
Methyl 6-chloronicotinate (5.0 g) was dissolved in DMF (75 ml) at r.t. under an argon atmosphere. 1-Methylpiperazine (3.66 ml) and diisopropylethylamine (30.7 ml) were added and the solution was stirred for 5 hours at 80° C. The reaction was quenched with water. The solution was extracted with EtOAc. The water phase was twice washed with EtOAc. The combined organic layers were washed with water and sat. aq. NaCl, dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2→CH2Cl2/MeOH 9:1) to give 6-(4-methyl-piperazin-1-yl)-nicotinic acid methyl ester (5.59 g) as light yellow solid.

reactant | Methyl 6-chloronicotinate | 5.0 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | 1-Methylpiperazine | 3.66 ml | CN1CCNCC1 | C5H12N2
reactant | diisopropylethylamine | 30.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 6-(4-methyl-piperazin-1-yl)-nicotinic acid methyl ester | 5.59 g | COC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C12H17N3O2
